US04489003
12 g (35 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate and 1 g of powdered potassium cyanide in 120 ml of cyclohexanol are stirred at 130° for 18 hours, in each case about 10 ml of cyclohexanol being distilled off three times in the course of the reaction. The mixture is subsequently evaporated, the residue is taken up in chloroform, washed with water, dried over magnesium sulphate and evaporated. By column chromatography on silica gel there is obtained cyclohexyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 166°-167°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 35 mmol, 12 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 1 g | [C-]#N.[K+]
solvent | cyclohexanol | 120 ml | C1(CCCCC1)O | C6H12O
solvent | cyclohexanol | about 10 ml | C1(CCCCC1)O | C6H12O
product | cyclohexyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCCC3)CCC1)=O | C21H22ClN3O3
